US06627755B1
3-(2-Chloro-pyridin-3-yl)-6-fluoro-2-[(3-pyrrolidin-1-ylmethyl-phenylamino)-methyl]-3H-quinazolin-4-one
A mixture of 3-(2-chloro-pyridin-3-yl)-6-fluoro-3,4-dihydro-quinazolin-4-one-2-carboxaldehyde (0.150 g, 0.49 mmol), 3-pyrrolidin-1-ylmethylaniline (0.044 g, 0.25 mmol), and acetic acid (0.14 mL, 2.45 mmol) in dichloroethane (10 mL) was chilled to 0° C. and sodium triacetoxyborohydride (0.312 g, 1.47 mmol) was added. The reaction was stirred for 1 hour at 0° C. and then allowed to warm to ambient temperature. The reaction was quenched by addition of saturated aqueous bicarbonate and continued stirring for 30 minutes. The phases were separated and the aqueous layer was extracted with methylene chloride. The combined organic phase was washed with brine, dried over magnesium sulfate and concentrated. The residue was flash chromatographed on silica gel (45 g) with elution proceeding as follows: 10% methanol/0.5% ammonium hydroxide/chloroform (200 mL), nil; (50 mL), unweighed impurity; (25 mL), nil; (75 mL), unweighed mixed fraction; (200 mL), 0.010 g (8%) of 3-(2-chloro-pyridin-3-yl)-6-fluoro-2-[(3-pyrrolidin-1-ylmethyl-phenylamino)-methyl]-3H-quinazolin-4-one as a pale yellow solid which had: 1H NMR δ 8.60 (d, J=5 Hz, 1H), 7.80 (t, J=5 Hz, 1H), 7.76 (d, J=9 Hz, 1H), 7.71 (dd, J=3, 9 Hz, 1H), 7.58-7.50 (m, 2H), 7.35 (dd, J=5, 8 Hz, 1H), 7.14-7.08 (m, 2H), 6.80 (dd, J=4, 9 Hz, 1H), 4,44 (s, 1H), 3.90-3.65 (m, 4H), 2.79 (br s, 4H), 1.90 (br s, 4H); APCI MS m/z=464 (P+1)

reactant | 3-(2-chloro-pyridin-3-yl)-6-fluoro-3,4-dihydro-quinazolin-4-one-2-carboxaldehyde | 0.49 mmol, 0.150 g | ClC1=NC=CC=C1N1C(=NC2=CC=C(C=C2C1=O)F)C=O | C14H7ClFN3O2
reactant | 3-pyrrolidin-1-ylmethylaniline | 0.25 mmol, 0.044 g | N1(CCCC1)CC=1C=C(N)C=CC1 | C11H16N2
reactant | acetic acid | 2.45 mmol, 0.14 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.47 mmol, 0.312 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
product | 3-(2-Chloro-pyridin-3-yl)-6-fluoro-2-[(3-pyrrolidin-1-ylmethyl-phenylamino)-methyl]-3H-quinazolin-4-one | ClC1=NC=CC=C1N1C(=NC2=CC=C(C=C2C1=O)F)CNC1=CC(=CC=C1)CN1CCCC1 | C25H23ClFN5O
